US07390809B2
Step C: 2,2-Difluoro-N-(3,6-dimethylpyrazin-2-yl)acetamide
To a slightly heterogeneous solution of 3,6-dimethylpyrazin-2-amine (1.88 g, 15.3 mmol) and N,N-diisopropylethylamine (5.32 mL, 30.5 mmol) in dichloromethane (75 mL) was added difluoroacetic anhydride (3.19 g, 18.3 mmol) dropwise at 0° C. The solution was stirred at 0° C. for 10 min and at ambient temperature for 2 h. The mixture was partitioned between dichloromethane and brine. The aqueous portion was extracted with dichloromethane, washed with brine, and dried over anhydrous magnesium sulfate. Concentration gave the title compound as a brown solid. LC/MS 202 (M+1).

reactant | 3,6-dimethylpyrazin-2-amine | 15.3 mmol, 1.88 g | CC=1C(=NC(=CN1)C)N | C6H9N3
reactant | N,N-diisopropylethylamine | 30.5 mmol, 5.32 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | difluoroacetic anhydride | 18.3 mmol, 3.19 g | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 2,2-Difluoro-N-(3,6-dimethylpyrazin-2-yl)acetamide | FC(C(=O)NC1=NC(=CN=C1C)C)F | C8H9F2N3O
